US07312224B2
6.1 Ammonia is passed into 350 ml of cold THF for 30 minutes. 30 g of methyl 4-chlorocarbonylbutyrate are then added dropwise, with ammonia continuing to be passed in at the same time. The crystals which deposit are separated off, and the residue is boiled a number of times with ethyl acetate. The combined filtrates are distilled off, and the residue is recrystallised from ethyl acetate, giving 23.4 g of methyl 4-aminocarbonylbutyrate (“FA”), m.p. 80°.

reactant | Ammonia | N | H3N
reactant | methyl 4-chlorocarbonylbutyrate | 30 g | ClC(=O)CCCC(=O)OC | C6H9ClO3
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | methyl 4-aminocarbonylbutyrate | 23.4 g | NC(=O)CCCC(=O)OC | C6H11NO3
